US07482340B2
To a solution of 2-chloro-N-[6-(2-phenylchroman-6-yloxy)-pyridin-3-yl]-acetamide (200 mg) in acetonitrile was added potassium carbonate (133 mg) and morpholine (53 mg). The mixture was stirred at room temperature. Water was added to the reaction mixture. Solution was extracted with ethyl acetate. Organic extract was dried and evaporated. 2-Morpholin-4-yl-N-[6-(2-phenylchroman-6-yloxy)-pyridin-3-yl]-acetamide was isolated as its hydrochloride salt. 1H-NMR (400 MHz; d6-DMSO) δ: 11.1 (s, 1H), 8.38 (d, 1H, J 2.7 Hz), 8.03 (dd, 1H, J 2.7, 8.9 Hz), 7.47-7.32 (m, 5H), 7.01 (d, 1H, J 8.9 Hz), 6.89-6.85 (m, 3H), 5.12 (dd, 1H, J 1.9, 10.0 Hz), 4.23 (s, 2H), 4.02-3.76 (m, 4H), 3.55-3.20 (m, 4H), 3.00-2.92 (m, 1H), 2.75-2.69 (m, 1H), 2.19-2.15 (m, 1H), 2.03-1.98 (m, 1H).

reactant | 2-chloro-N-[6-(2-phenylchroman-6-yloxy)-pyridin-3-yl]-acetamide | 200 mg | ClCC(=O)NC=1C=NC(=CC1)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C22H19ClN2O3
reactant | potassium carbonate | 133 mg | C([O-])([O-])=O.[K+].[K+]
reactant | morpholine | 53 mg | N1CCOCC1 | C4H9NO
reactant | Water | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-Morpholin-4-yl-N-[6-(2-phenylchroman-6-yloxy)-pyridin-3-yl]-acetamide | N1(CCOCC1)CC(=O)NC=1C=NC(=CC1)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C26H27N3O4
